US04145546
Ethyl α-(phenylethyl)acetoacetate (23.4g) and thiourea (10.65g) were added to a solution of sodium ethoxide in ethanol (100 ml) prepared from sodium (4.6g). The mixture was refluxed for 51/2 hours and evaporated to dryness. The solid residue was dissolved in water and acetic acid was added to pH 4. The white precipitate was filtered off and recrystallised from ethanol to give 5-(2-phenylethyl)-6-methyl-2-thiouracil m.p. 210°-214°.

reactant | Ethyl α-(phenylethyl)acetoacetate | 23.4g | C1(=CC=CC=C1)CCC(C(=O)OCC)C(=O)C | C14H18O3
reactant | thiourea | 10.65g | NC(=S)N | CH4N2S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 4.6g | [Na] | Na
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(2-phenylethyl)-6-methyl-2-thiouracil | C1(=CC=CC=C1)CCC=1C(NC(NC1C)=S)=O | C13H14N2OS
